Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain, dyspnea
 
Major Surgical or Invasive Procedure:
None. 
 
History of Present Illness:
Mr. ___ is a ___ with a h/o CAD s/p multiple stents (distal 
RCA and PDA stents in ___, RCA/PDA stenting ___, known 
occluded OM1 not amenable to intervention; all done at ___) 
and known RBBB who has worsening chronic stable angina (started 
on Ranexa ___ who was sent from ___'s office this AM for 
elevated BP and concerns for progressive angina. 

Pt reports that he usually gets chest pressure while walking 
after dinner. He can usually walk through the pain or will 
resolve immediately with nitro, but for the past 2 weeks, has 
been progressively worsening, where he will need to rest or it 
will take longer to resolve with nitro. Last night, angina and 
dyspnea took >30min to resolve, which prompted him to see his 
PCP this AM. ___ that substernal chest pressure/squeezing 
sensation radiates across chest and can be assoc with dyspnea, 
but not assoc with diaphoresis, n/v, lightheadedness or vision 
change. Sxs have been similar to prior episodes that led to 
cath/PCI. Reports that he has not had angina and DOE today, 
other than while walking up ramp to ___ ED, which 
self-resolved after a few min. 

Reports that he is compliant with all of his medications. Last 
took home meds this AM, including ASA 325. Had tried imdur for 
about 2 days, but stopped ___ severe HAs. Has been trying ranexa 
since ___, but says it does not help. 

Per pt's cardiologist's note from ___, he was concerned about 
CAD progression and recommended cath, but pt refused at the 
time. Since his symptoms had decreased in freq at that time, 
they decided to hold off, but if symptoms were to increase, then 
he would strongly urge cath. 

Denies recent head injury/trauma, vision change, or back pain. 

In the ED initial vitals were:  98.4   77   221/110  20   100% 
RA
 
 EKG: sinus @ rate 67 with RBBB (c/w ECG from PCP). ?shows some 
changes compared to PCP EKG, some ___ depressions in leads I 
and II.  

 Labs/studies notable for: 
- trops neg x1 
- CK 101, MB 1
- Chem 7 wnl except gluc 108
- Ca ___ Mg 2.4; P 3.0
- CBC wnl
- ___ 11.7, PTT 32.0, INR 1.1
- U/A: straw, clear, sg 1.007, pH 7.0, neg 
urobili/bili/leuk/bld/nitr/prot/glu/ket  

 Patient was given: 
___ 18:41 PO Lorazepam 1 mg 
- ordered for Labetalol 5 mg IV Q10 MINUTES X3 DOSES - per 
patient this was not given, as SBP decreased to 150s. 

 On the floor is chest pain free, but anxious about having to 
stay overnight in the hospital. 

REVIEW OF SYSTEMS:  
Denies PND, orthopnea, h/o syncope/stroke/TIA. No h/o DVT/PE, 
bleeds, fevers/chills or cough. 
Had peripheral edema while on amlodipine in the past. 
 
Past Medical History:
-CAD s/p stents as above
-HTN
-HLD
-Bipolar disorder
 
Social History:
___
Family History:
mother CAD
___ died of heart disease   
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T 97.8  BP 214/194  HR 102  RR 22  99%on RA  
Admission wt: 105 kg
GENERAL: Well developed male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, MMM.
NECK: Supple with no appreciable JVP at 45 degrees.  
CARDIAC: RRR, normal S1, S2. ___ systolic murmur in RUSB, LUSB 
and LLSB   
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: +BS, Soft, NT, mildly distended.  
EXTREMITIES: No c/c/e. 2+ ___ pulses b/l  
SKIN: No stasis dermatitis or ulcers. 

DISCHARGE PHYSICAL EXAMINATION:  
VS: T 98.1  BP 184/106  HR 69  RR 18  98%on RA  
Admission wt: 105 kg
GENERAL: Well developed male in NAD. Oriented x3. Mood, affect 
appropriate.  
NECK: Supple with no appreciable JVP at 45 degrees.  
CARDIAC: RRR, normal S1, S2. ___ systolic murmur in RUSB, LUSB 
and LLSB   
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: +BS, Soft, NT, mildly distended.  
EXTREMITIES: No c/c/e. 2+ ___ pulses b/l  
SKIN: No stasis dermatitis or ulcers. 
 
Pertinent Results:
ADMISSION LABS:
___ 02:54PM BLOOD WBC-8.0 RBC-4.58* Hgb-14.2 Hct-41.6 
MCV-91 MCH-31.0 MCHC-34.1 RDW-12.2 RDWSD-40.2 Plt ___
___ 02:54PM BLOOD Neuts-68.2 ___ Monos-7.0 Eos-2.6 
Baso-1.0 Im ___ AbsNeut-5.42 AbsLymp-1.65 AbsMono-0.56 
AbsEos-0.21 AbsBaso-0.08
___ 02:54PM BLOOD Plt ___
___ 02:54PM BLOOD ___ PTT-32.0 ___
___ 02:54PM BLOOD Glucose-108* UreaN-11 Creat-1.2 Na-142 
K-3.6 Cl-106 HCO3-27 AnGap-13
___:54PM BLOOD CK(CPK)-101
___ 02:54PM BLOOD cTropnT-<0.01
___ 02:54PM BLOOD CK-MB-1
___ 02:54PM BLOOD Calcium-10.3 Phos-3.0 Mg-2.4

PERTINENT LABS:
___ 09:08PM BLOOD CK-MB-1 cTropnT-<0.01

DISCHARGE LABS:
___ 06:05AM BLOOD WBC-8.0 RBC-4.56* Hgb-14.3 Hct-41.7 
MCV-91 MCH-31.4 MCHC-34.3 RDW-12.2 RDWSD-40.3 Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD Glucose-88 UreaN-10 Creat-1.1 Na-142 
K-3.8 Cl-106 HCO3-23 AnGap-17
___ 06:05AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:05AM BLOOD Calcium-9.7 Phos-3.9 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ with a h/o CAD s/p multiple stents (distal 
RCA and PDA stents in ___, RCA/PDA stenting ___, known 
occluded OM1 not amenable to intervention; all done at ___) 
and known RBBB who has worsening chronic stable angina (started 
on Ranexa ___ who was sent from PCP's office this AM for 
elevated BP and concerns for progressive angina. 

#Hypertensive emergency: on arrival to ED, BP 221/110 with 
evidence suggestive of end-organ damage (chest pain and 
dyspnea). Was ordered for labetalol 5mg x3 in ED, but did not 
receive per pt as SBP decreased to 150s. On arrival to ___ 3, 
BP elevated to 214/194. Was started on nitro gtt, titrating to 
gradually decrease SBP down to 170s in ___ 2 hours, then to 140s 
within next ___ hrs. Gave one dose of captopril 6.25mg. Pt was 
anxious to leave the hospital, so transitioned to PO 
antihypertensive medications. Was restarted home lisinopril 40 
mg PO DAILY, started on carvedilol 12.5 mg BID and HCTZ 25mg qD. 
Home Toprol XL 50mg daily was stopped. Patient left against 
medical advice as blood pressure at discharge was 187/104.

#Chest pressure/pain: likely demand ischemia in the setting of 
elevated blood pressure (SBPs 220s). less likely ACS as trop neg 
x2 and was not having chest pain during this admission. Treated 
hypertension as above and continued home ASA 325mg qD and 
atorvastatin 80mg daily. Held home ranolazine while inpatient. 

#Chronic issues:
- HLD: continued home atorvastatin 80mg daily
- Bipolar disorder: continued home LamoTRIgine 150 mg PO DAILY 
and Lithium Carbonate 450 mg PO BID and gave lorazepam x1 and 
Xanax x1 for anxiety. 

TRANSITIONAL ISSUES:
- NEW MEDICATIONS: carvedilol 18.75 mg BID and HCTZ 25mg qD
- STOPPED MEDICATIONS: Toprol XL 50mg daily
- please consider doing a renal artery Doppler to assess for 
renal artery stenosis
- please consider an exercise stress test to assess for symptom 
limiting/induction and to assess for hypertensive response to 
stress
- please reassess blood pressure and uptitrate carvedilol as 
needed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
2. Atorvastatin 80 mg PO QPM 
3. Lisinopril 40 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Ranexa (ranolazine) 500 mg oral Q12H 
7. LamoTRIgine 150 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Lithium Carbonate 450 mg PO BID 

 
Discharge Medications:
1.  Carvedilol 18.75 mg PO BID 
RX *carvedilol 6.25 mg 3 (Three) tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 
2.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 (One) tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*1 
3.  Aspirin 325 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  LamoTRIgine 150 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  Lithium Carbonate 450 mg PO BID  
8.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain   
9.  Ranexa (ranolazine) 500 mg ORAL Q12H  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Hypertensive emergency
Demand ischemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for a dangerously high blood pressure level. 
We believe that your chest pressure/pain was likely caused by 
the elevated blood pressure.

We started you on an IV blood pressure medication, 
nitroglycerin, to gradually and safely decrease your blood 
pressure down to a safe level. We started hydrochlorothiazide in 
addition to lisinopril. We also changed your beta blocker, 
metoprolol to carvedilol. 

We strongly recommend that you stay as you are at increased risk 
of strokes and heart attacks with your blood pressure this high. 
You were discharged against medical advice as your blood 
pressure on discharge continued to be very high at 187/104 
despite these changes.

It is important that you have close follow-up with your 
cardiologist after discharge, so that your blood pressure 
medications can be optimized, specifically the carvedilol. You 
should also get an exercise stress test and your kidneys should 
be checked to see if there are any occlusions in the arteries 
feeding your kidney, which can cause your blood pressure to 
rise.

When you go home, it is important that you continue to take your 
prescribed medications as detailed in your discharge medication 
list. Please also continue to check your blood pressure at home 
on a regular basis and bring the records to your next doctor 
visit.  

It was a pleasure taking care of you.

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___